US07265115B2
9-methyl-3-(6-chloro-3-pyridinyl)-3,9-diazabicyclo[4.2.1]nonane
9-Methyl-3,9-diazabicyclo[4.2.1]nonane (prepared as described in U.S. Pat. No. 2,999,091) and 2-chloro-5-iodopyridine were coupled according the procedure of Example 15C to provide the title compound (78% yield). 1H NMR (free base, CDCl3, 300 MHz) δ 1.23-1.48 (m, 2H), 1.65-1.76 (m, 1H), 1.91-2.27 (m, 3H), 2.44 (s, 3H), 3.18-3.35 (m, 3H), 3.48-3.54 (m, 2H), 3.65 (br d, J=13.5 Hz, 1H), 6.98 (dd, J=3, 8.25 Hz, 1H), 7.06 (d, J=8.25 Hz, 1H), 7.87 (d, J=3 Hz, 1H); MS (DCI/NH3) m/z 252 (M+H)+, 269 (M+NH4)+; Anal. Calcd. for C13H18ClN3.C7H8O3S: C, 56.66; H, 6.18; N, 9.91. Found: C, 56.76; H, 6.15; N, 9.77.

reactant | 9-Methyl-3,9-diazabicyclo[4.2.1]nonane | CN1C2CNCCC1CC2 | C8H16N2
reactant | 2-chloro-5-iodopyridine | ClC1=NC=C(C=C1)I | C5H3ClIN
product | 9-methyl-3-(6-chloro-3-pyridinyl)-3,9-diazabicyclo[4.2.1]nonane | 78% yield | CN1C2CN(CCC1CC2)C=2C=NC(=CC2)Cl | C13H18ClN3
